US04309211
Ethyl 2-{4-[(7-chloro-1,2,4-benzotriazin-3-yl)thio]phenoxy}propionate (20)
A mixture of 4-[(7-chloro-1,2,4-benzotriazin-3-yl)thio]phenol (1.83 g), ethyl 2-bromopropionate (1.37 g), anhydrous potassium carbonate (0.96 g) and methyl ethyl ketone (50 ml) was heated under reflux for a period of 3 hours. The solvent was removed by distillation under reduced pressure and the residue was partitioned between water and dichloromethane. The organic phase was separated, dried (over anhydrous magnesium sulfate) and the solvent was removed by distillation under reduced pressure to give a solid. The crude product was purified by chromatography over silica gel (eluent dichloromethane) to give the title compound (1.95 g) as a crystalline solid, mp 86°-88° C.

reactant | 4-[(7-chloro-1,2,4-benzotriazin-3-yl)thio]phenol | 1.83 g | ClC1=CC2=C(N=C(N=N2)SC2=CC=C(C=C2)O)C=C1 | C13H8ClN3OS
reactant | ethyl 2-bromopropionate | 1.37 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 0.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | Ethyl 2-{4-[(7-chloro-1,2,4-benzotriazin-3-yl)thio]phenoxy}propionate | 1.95 g | ClC1=CC2=C(N=C(N=N2)SC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C18H16ClN3O3S
